US04297489
To a stirred mixture of p-hydroxymethylbenzaldehyde (10.0 g., 0.0735 mole) and ammonium carbonate (17.1 g., 0.15 mole) in 110 ml. of 60% ethanol heated to 50° C. there was added dropwise sodium cyanide (4.0 g., 0.081 mole) dissolved in 10 ml. water. The mixture was stirred and heated to 55°-60° C. for three hours and then the temperature raised to 85° C. for one hour. After cooling in an ice bath, the pH of the solution was brought to 6 by the addition of concentrated hydrochloric acid. Upon overnight cooling, the solid which had precipitated was filtered, washed with cold water, and dried. The 5-(p-hydroxymethylphenyl)hydantoin (11.0 g., 72% yield), m.p. 189°-196° (dec.), was used to prepare the amino acid without further purification.

reactant | p-hydroxymethylbenzaldehyde | 0.0735 mole, 10.0 g | OCC1=CC=C(C=O)C=C1 | C8H8O2
reactant | ammonium carbonate | 0.15 mole, 17.1 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | sodium cyanide | 0.081 mole, 4.0 g | [C-]#N.[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-(p-hydroxymethylphenyl)hydantoin | 11.0 g, 72% yield | OCC1=CC=C(C=C1)C1C(NC(N1)=O)=O | C10H10N2O3
